US07713994B2
2-Nitro-malonaldehyde (1.57 g, 10 mmol) is dissolved in water (15 mL), followed by addition of 2-methyl-isothiourea (1.56 g, 5.6 mmol) and N-methylpiperazine (1.92 mL, 17.3 mL). After stirring at room temperature overnight, it is filtered and washed with water and hexane to yield 1.38 g (62%) of 2-(4-methyl-piperazin-1-yl)-5-nitro-pyrimidine as a white solid. MS (ESI) m/z 224.3 (M+H)+1. [Heterocycles. 1977, 6(12), 1999-2004].

reactant | 2-Nitro-malonaldehyde | 10 mmol, 1.57 g | [N+](=O)([O-])C(C=O)C=O | C3H3NO4
reactant | 2-methyl-isothiourea | 5.6 mmol, 1.56 g | CSC(N)=N | C2H6N2S
reactant | N-methylpiperazine | 1.92 mL | CN1CCNCC1 | C5H12N2
solvent | water | 15 mL | O | H2O
product | 2-(4-methyl-piperazin-1-yl)-5-nitro-pyrimidine | 1.38 g, 62% | CN1CCN(CC1)C1=NC=C(C=N1)[N+](=O)[O-] | C9H13N5O2
